2127-10-11 07:01:00 Physician Resident Progress Note
Chief Complaint: 19M with history of bipolar disorder, ADHD, found
   unreponsive by mother at 6 am yesterday with empty clozaril and
   robitussin bottles next to him.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2127-10-10**] 01:31 PM
 LUMBAR PUNCTURE - At [**2127-10-10**] 06:07 PM
 SPUTUM CULTURE - At [**2127-10-10**] 08:00 PM
 EKG - At [**2127-10-10**] 08:15 PM
 EKG - At [**2127-10-10**] 09:20 PM
 EKG - At [**2127-10-10**] 10:46 PM
 EKG - At [**2127-10-11**] 12:08 AM
 INVASIVE VENTILATION - STOP [**2127-10-11**] 04:00 AM
 FEVER - 101.2
F - [**2127-10-11**] 12:00 AM
   sw saw pt and will visit again tomorrow
   Allergies:
   Cefaclor
   Unknown;
   Last dose of Antibiotics:
   Clindamycin - [**2127-10-10**] 09:00 PM
   Vancomycin - [**2127-10-10**] 10:30 PM
   Acyclovir - [**2127-10-11**] 04:10 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2127-10-10**] 08:00 PM
   Lorazepam (Ativan) - [**2127-10-11**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-10-11**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.5
C (99.5
   HR: 130 (95 - 133) bpm
   BP: 140/67(87) {110/45(61) - 151/67(87)} mmHg
   RR: 37 (17 - 38) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  3,341 mL
                                                                    667 mL
   PO:
             TF:
   IVF:
                                                                  2,271 mL
                                                                    667 mL
   Blood products:
   Total out:
                                                                    825 mL
                                                                    200 mL
   Urine:
                                                                    825 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,516 mL
                                                                    467 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 512 (512 - 512) mL
   RR (Set): 14
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 16 cmH2O
   Plateau: 19 cmH2O
   Compliance: 150 cmH2O/mL
   SpO2: 96%
   ABG: 7.45/39/81.[**Numeric Identifier 8**]//2
   Ve: 10.9 L/min
   PaO2 / FiO2: 205
   Physical Examination
   Cardiovascular: gen: agitated
   Unable to examine [**2-24**] agitation (kicking, spitting, etc)
   ext no c/c/e
   Labs / Radiology
   148 K/uL
   12.9 g/dL
   3.1 mEq/L
   101 mEq/L
   140 mEq/L
   38.4 %
   10.7 K/uL
        [image002.jpg]
                             [**2127-10-10**]  04:36 PM
                             [**2127-10-11**]  04:17 AM
   WBC
   10.7
   Hct
   38.4
   Plt
   148
   TCO2
   28
   Other labs: Lactic Acid:2.2 mmol/L
   Microbiology: GS sputum c oropharyngeal flora
   GS CSF no organisms
   Assessment and Plan
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 SUICIDALITY / SUICIDE ATTEMPT
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   19M with bipolar disorder, admitted with unresponsiveness thought [**2-24**]
   clozaril (and ?other) overdose, fever, and seizure, intubated in the
   field, now extubated and agitated and delerious.
   .
   #  Overdose/suicidal ideation.  Presumed suicidal gesture.  Assumed
   Clozaril and Robitussin intake. Tox screen negative.  Also with lithium
   in past, though level negative at OSH.
   - Add on one more Li level, given would not be bound by AC.
   - Tox recs.
   - Monitor for evidence of serotonin syndrome or NMS (clonus, rigidity,
   etc).
   - Serial ECGs q4h.
   - Will not require further bicarb per tox.
   - psych consult and SW consult
   - ?eventual placement.
   - Hold psych meds (per SW note pt had not taken for past 3days)
   .
   #  Seizure.  In setting of overdose, fever, and leukocytosis.  Needs
   rule out for meningitis.  Likely overdose related. No prior seizure
   history.
   - LP to rule out meningitis done yesterday. c/w postictal versus viral
   meningitis
   - broad spectrum abx discontinued, will continue acyclovir pending HSV
   pcr
   - Management of overdose as above.
   - Care with bicarb gtt so as not to make too alkalemic and thus lower
   sz threshold.
   .
   # Aspiration pneumonia/respiratory failure.  Likely related to altered
   mental status/somnolence due to overdose.  Also consider CAP, but more
   likely to be aspiration in this setting.  Intubated for airway
   protection and ventilating and oxygenating well, extubated overnight
   - Start clindamycin IV 600 mg Q8H, switch to PO when tolerating
   - Sputum culture
   .
   #  Fever/leukocytosis.  Also with bands on diff.  Known likely
   aspiration pneumonia.  Also concern for meningitis as above.
   - LP for rule out meningitis.
   - Cover with high dose ceftriaxone, vancomycin, acyclovir until results
   return.
   - Clindamycin for likely aspiration pneumonia.
   .
   #  ECG changes.  Per tox findings not concerning for TCA overdose;
   likely okay to dc bicarb gtt.
   - Will complete bicarb gtt, then check ECGs off bicarb (serial - at 30
   minutes, 60 minutes, 2 hours, then q4H afterwards for 24 hours).
   .
   # FEN: advance diet as tolerated, replete electrolytes.
   # Prophylaxis: Subcutaneous heparin, H2B, VAP precautions
   # Access: peripherals
   # Code: presumed full
   # Communication: mother [**Name (NI) 8342**] [**Name (NI) 5719**] [**Telephone/Fax (1) 8343**]
   # Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2127-10-10**] 02:05 PM
   20 Gauge - [**2127-10-10**] 02:07 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2127-10-12 06:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - persistent tachycardia to 150's with problems protecting airway,
   excess secretions and combative, ABG 7.36/45/50/26 - reintubated and
   arterial line placed
   - temperatures to 104.4 - levofloxacin added to broaden coverage
   - cuff check prior to extubation as patient had swollen OP and
   arytenoids prior to last intubation
   Allergies:
   Cefaclor
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2127-10-10**] 10:30 PM
   Levofloxacin - [**2127-10-11**] 10:00 PM
   Acyclovir - [**2127-10-12**] 03:30 AM
   Clindamycin - [**2127-10-12**] 04:00 AM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Haloperidol (Haldol) - [**2127-10-11**] 08:11 AM
   Lorazepam (Ativan) - [**2127-10-11**] 01:07 PM
   Heparin Sodium (Prophylaxis) - [**2127-10-12**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-10-12**] 06:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 40.2
C (104.4
   Tcurrent: 37.7
C (99.9
   HR: 85 (85 - 150) bpm
   BP: 138/69(88) {132/63(85) - 150/78(101)} mmHg
   RR: 18 (16 - 38) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  3,997 mL
                                                                    961 mL
   PO:
             TF:
   IVF:
                                                                  3,997 mL
                                                                    961 mL
   Blood products:
   Total out:
                                                                  1,525 mL
                                                                  1,140 mL
   Urine:
                                                                  1,525 mL
                                                                  1,140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,472 mL
                                                                   -179 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 16
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 150
   PIP: 30 cmH2O
   Plateau: 22 cmH2O
   SpO2: 98%
   ABG: 7.43/41/152/26/3
   Ve: 8.8 L/min
   PaO2 / FiO2: 304
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   132 K/uL
   12.9 g/dL
   106 mg/dL
   0.8 mg/dL
   26 mEq/L
   3.6 mEq/L
   6 mg/dL
   112 mEq/L
   145 mEq/L
   36.8 %
   9.4 K/uL
         [image002.jpg]
                             [**2127-10-10**]  04:36 PM
                             [**2127-10-11**]  04:17 AM
                             [**2127-10-11**]  01:28 PM
                             [**2127-10-11**]  04:10 PM
                             [**2127-10-11**]  04:12 PM
                             [**2127-10-11**]  06:24 PM
                             [**2127-10-12**]  03:03 AM
                             [**2127-10-12**]  03:22 AM
   WBC
   10.7
   9.4
   Hct
   38.4
   36.8
   Plt
   148
   132
   Cr
   1.0
   0.9
   0.8
   TropT
   <0.01
   TCO2
   28
   26
   25
   25
   28
   Glucose
   127
   109
   106
   Other labs: PT / PTT / INR:14.2/26.9/1.2, CK / CKMB /
   Troponin-T:254/4/<0.01, ALT / AST:17/26, Alk Phos / T Bili:73/0.8,
   Lactic Acid:1.1 mmol/L, LDH:317 IU/L, Ca++:8.6 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.3 mg/dL
   Microbiology
   - sputum
 multiple organisms c/w OP flora with rare growth
   - blood cx
 pending
   - urine cx
 pending
   - HSV cx
 pending
   Imaging
   - CXR
   Assessment and Plan
   19 yom w/ bipolar disorder, admitted with unresponsiveness thought [**2-24**]
   clozaril (and ? other) overdose, fever, and seizure, intubated in the
   field..
   #  Overdose/suicidal ideation.  Presumed suicidal gesture with clozaril
   and robitussin.  Patient was re-intubated yesterday for severe
   agitation and airway protection
   - continue supportive care with serial free T4 and TSH to ensure no
   hyperthyroid toxicity
   - monitor for SSS and NMS (clonus, rigidity, hyperreflexia)
   - psych consult and SW consult when return to normal mentation
   - continue holding psychiatric meds as patient had been non-compliant
   for some period of time prior to presentation
   - consider reducing sedation to evaluate mental status and performing
   cuff check considering swollen arytenoids at intubation yesterday
   #  Seizure.  In setting of overdose, fever, and leukocytosis.  Needs
   rule out for meningitis.  Likely overdose related. No prior seizure
   history.
   - continue Acyclovir pending HSV PCR from LP
   .
   # Aspiration pneumonia/respiratory failure.  Patient now back on vent
   for airway protection.  High suspicion for aspiration pneumonia with
   spiking fevers to 104 without Si/Sx of NMS or SSS.  CXR suggestive of
   airspace disease.
   - continue Clindamycin and Levaquin for broad coverage of CAP and
   Aspriation
   - f/u cultures and CXR
   - consider BAL and sputum sample
   #  Fever/leukocytosis.  Also with bands on diff.  Known likely
   aspiration pneumonia.  Also concern for meningitis as above.
   - continue acyclovir pending HSV PCR CSF results
   - continue Clindamycin and Levaquin for likely aspiration pneumonia
   #  ECG changes.  Per tox findings not concerning for TCA overdose; okay
   to dc bicarb gtt.
   .
   # Agitation: pt agitated and kicking staff
   -4pt restraints for safety of staff
   -ativan 2mg q1hr prn
   .
   # FEN: advance diet as tolerated, replete electrolytes.
   # Prophylaxis: Subcutaneous heparin, H2B, VAP precautions
   # Access: peripherals
   # Code: presumed full
   # Communication: mother [**Name (NI) 8342**] [**Name (NI) 5719**] [**Telephone/Fax (1) 8343**]
   # Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2127-10-11**] 04:36 PM
   20 Gauge - [**2127-10-11**] 04:36 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2127-10-13 06:40:00 Physician Resident Progress Note
Chief Complaint: 19 yom w/ bipolar disorder, admitted with
   unresponsiveness thought [**2-24**] clozaril (and ? other) overdose, fever,
   and seizure, now spiking fevers and found to have LLL pna confirmed c
   bronch.
   24 Hour Events:
 EKG - At [**2127-10-12**] 08:50 AM
 BRONCHOSCOPY - At [**2127-10-12**] 12:15 PM
 PAN CULTURE - At [**2127-10-12**] 07:05 PM
 FEVER - 102.7
F - [**2127-10-12**] 06:00 PM
   - Did bronch yesterday, cultures sent
   - holding TF's after midnight for potential extubation tomorrow
   - As per toxicology, no haldol if agitated after wakes up because could
   lower seizure threshold if this is part of toxidrome
   - febrile to 102. pan cultured
   - CK remains low, no mm rigidity on exam
   -D51/2NS for maintenance fluids
   -waking up with propofol, had to add on midazolam
   Allergies:
   Cefaclor
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2127-10-12**] 10:30 PM
   Vancomycin - [**2127-10-13**] 12:00 AM
   Acyclovir - [**2127-10-13**] 04:06 AM
   Clindamycin - [**2127-10-13**] 04:06 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Propofol - [**2127-10-12**] 07:45 PM
   Heparin Sodium (Prophylaxis) - [**2127-10-13**] 04:06 AM
   Midazolam (Versed) - [**2127-10-13**] 04:06 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-10-13**] 06:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.7
   Tcurrent: 38.1
C (100.5
   HR: 81 (76 - 96) bpm
   BP: 137/61(83) {123/59(78) - 161/94(112)} mmHg
   RR: 39 (16 - 39) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  3,444 mL
                                                                  1,655 mL
   PO:
             TF:
                                                                    220 mL
                                                                    159 mL
   IVF:
                                                                  3,104 mL
                                                                  1,136 mL
   Blood products:
   Total out:
                                                                  2,970 mL
                                                                    570 mL
   Urine:
                                                                  2,970 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    474 mL
                                                                  1,085 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   PS : 15 cmH2O
   RR (Set): 16
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 175
   PIP: 30 cmH2O
   Plateau: 24 cmH2O
   Compliance: 31.6 cmH2O/mL
   SpO2: 98%
   ABG: 7.39/42/129/24/0
   Ve: 9.4 L/min
   PaO2 / FiO2: 322
   Physical Examination
   Cardiovascular: gen: intubated, sedated
   cv: rrr no m/r/g
   resp: cta anteriorly
   abd: soft, nt
   ext: 2+ dp b/l, no edema
   Labs / Radiology
   157 K/uL
   11.4 g/dL
   107 mg/dL
   0.8 mg/dL
   24 mEq/L
   4.0 mEq/L
   6 mg/dL
   110 mEq/L
   143 mEq/L
   34.9 %
   7.5 K/uL
        [image002.jpg]
                             [**2127-10-11**]  04:10 PM
                             [**2127-10-11**]  04:12 PM
                             [**2127-10-11**]  06:24 PM
                             [**2127-10-12**]  03:03 AM
                             [**2127-10-12**]  03:22 AM
                             [**2127-10-12**]  10:45 PM
                             [**2127-10-12**]  10:54 PM
                             [**2127-10-13**]  04:27 AM
                             [**2127-10-13**]  04:39 AM
                             [**2127-10-13**]  06:05 AM
   WBC
   9.4
   8.3
   7.5
   Hct
   36.8
   34.4
   34.9
   Plt
   132
   148
   157
   Cr
   0.9
   0.8
   0.8
   0.8
   TCO2
   25
   25
   28
   28
   26
   26
   Glucose
   109
   106
   111
   107
   Other labs: PT / PTT / INR:13.7/26.4/1.2, CK / CKMB /
   Troponin-T:122/4/<0.01, ALT / AST:14/24, Alk Phos / T Bili:76/0.5,
   Lactic Acid:0.7 mmol/L, Albumin:3.4 g/dL, LDH:404 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.4 mg/dL
   Fluid analysis / Other labs: bronch: LLL pna, diffuse thick secretions
   erythema and friabilitiy in LLL.
   Microbiology:       1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR
   LEUKOCYTES.
         NO MICROORGANISMS SEEN.
   Assessment and Plan
 ALTERATION IN NUTRITION
 PNEUMONIA, ASPIRATION
 HYPOXEMIA
 DELIRIUM / CONFUSION
 HYPOVOLEMIA (VOLUME DEPLETION - WITHOUT SHOCK)
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 SUICIDALITY / SUICIDE ATTEMPT
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   19 yom w/ bipolar disorder, admitted with unresponsiveness thought [**2-24**]
   clozaril (and ? other) overdose, fever, and seizure, intubated in the
   field..
   # Agitation: prior agitation s/p extubation
   - will d/c midazolam, wean propofol more aggressively and attempt to
   convert to just presidex
   #  Overdose/suicidal ideation.  Presumed suicidal gesture with clozaril
   and robitussin.  Patient was re-intubated Saturday for severe agitation
   and airway protection
   - continue supportive care
   - trial of sedation reduction to evaluate mental status
 if patient
   following commands and less agitated, consider extubation but perform
   cuff check prior considering swollen arytenoids visualized at
   intubation
   -will consider restarting psych meds pending discussion with tox
   regarding half life/interactions
   # Aspiration pneumonia/respiratory failure.  Patient now back on vent
   for airway protection.  High suspicion for aspiration pneumonia with
   spiking fevers to 104 without Si/Sx of NMS or SSS.  CXR suggestive of
   airspace disease.
   - continue Clindamycin and Levaquin for broad coverage of CAP and
   Aspriation; will switch clinda/levaquin to unasyn. Will continue
   vancomycin for now, pending BAL
   - f/u cultures and CXR
   - BAL yesterday showed LLL pna and sputum gram stain showed pmns s
   organisms, cultures pending
   #  Seizure.  In setting of overdose, fever, and leukocytosis.  Needed
   rule out for meningitis.  Likely overdose related. No prior seizure
   history.
   - continue Acyclovir pending HSV PCR from LP
   #  ECG changes.  Stabilized, per Tox OK to discontinue bicarb gtt
   .
   .
   # FEN: consider tube feeds off for ?extubation this am, replete
   electrolytes.
    # Prophylaxis: Subcutaneous heparin, H2B, VAP precautions
    # Access: peripherals
    # Code: presumed full
    # Communication: mother [**Name (NI) 8342**] [**Name (NI) 5719**] [**Telephone/Fax (1) 8343**]
   # Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2127-10-11**] 04:36 PM
   20 Gauge - [**2127-10-12**] 05:55 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2127-10-14 07:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2127-10-13**] 04:00 PM
 INVASIVE VENTILATION - STOP [**2127-10-13**] 05:37 PM
 ARTERIAL LINE - STOP [**2127-10-13**] 11:12 PM
 FEVER - 101.2
F - [**2127-10-13**] 08:00 PM
   -5 of haldol for agitation and then try to extubate
   -psych: [**6-1**] haldol q2h prn, monitor daily ekgs
   -MRSA screen negative and BAL prelim cultures with no growth... would
   strongly consider dc vancomycin in the am if otherwise stable
   -fevers lower today s cooling blanket (100s from 7a-19)
   -BAL: GRAM STAIN (Final [**2127-10-12**]):
         1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Preliminary):    NO GROWTH, <1000 CFU/ml.
   -extubated. abg post extubation 7.35/49/89
   -has yucky cough
   -precedex on, propofol off
   -psych recs: "1. Haldol 5-10mg IV q2 hours PRN agitation. Will closely
   follow
   how much neuroleptic pt receives. Closely monitor Qtc (already
   monitored in MICU), daily EKGs, monitor for EPS/NMS.
   2. Stay away from benzodiazepines, anticholinergic,
   antihistaminic medications.
   3. Will be in touch with outpatient psychiatrist to obtain more
   history.
   4. Hold all other psychotropic medications for now.
   5. 1:1 sitter given recent suicide attempt and extensive history
   of impulsive behaviors.
   6. Will follow with you. Page at [**Numeric Identifier 8394**] with questions/concerns."
   -tox says: ok to restart psych meds, thinks fevers [**2-24**] to pna rather
   than NMS
   -sw saw yesterday, but not today
   -wheezy, ordered prn atrovent and albuterol, placed on 6LNC. pt
   tachypneic but sats and ABG reassuring
   -lost [**2-25**] pivs and also lost aline
   -kind of hypertensive all day/night
   -very awake.
   -expressing regret that suicide attempt not successful
   Allergies:
   Cefaclor
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2127-10-12**] 10:30 PM
   Clindamycin - [**2127-10-13**] 04:06 AM
   Acyclovir - [**2127-10-13**] 10:15 PM
   Vancomycin - [**2127-10-14**] 12:00 AM
   Ampicillin/Sulbactam (Unasyn) - [**2127-10-14**] 02:18 AM
   Infusions:
   Dexmedetomidine (Precedex) - 0.4 mcg/Kg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2127-10-13**] 09:00 AM
   Heparin Sodium (Prophylaxis) - [**2127-10-13**] 12:00 PM
   Propofol - [**2127-10-13**] 02:40 PM
   Haloperidol (Haldol) - [**2127-10-14**] 02:18 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-10-14**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2 at 8pm yesterday
   Tcurrent: 37.2
C (98.9
   HR: 93 (71 - 107) bpm
   BP: 153/130(136) {141/56(74) - 163/130(162)} mmHg
   RR: 34 (20 - 54) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  4,101 mL
                                                                    413 mL
   PO:
             TF:
                                                                    159 mL
   IVF:
                                                                  3,341 mL
                                                                    413 mL
   Blood products:
   Total out:
                                                                  4,550 mL
                                                                  1,100 mL
   Urine:
                                                                  4,550 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -449 mL
                                                                   -687 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 334 (334 - 384) mL
   PS : 5 cmH2O
   RR (Spontaneous): 43
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 191
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: 7.38 pCO2
   47 pO2
   43 HCO3
   29  (venous)
   Ve: 14.2 L/min
   PaO2 / FiO2: 207
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Oriented (to): self, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   174 K/uL
   13.7 g/dL
   102 mg/dL
   0.8 mg/dL
   27 mEq/L
   4.5 mEq/L
   5 mg/dL
   106 mEq/L
   145 mEq/L
   42.0 %
   8.0 K/uL
        [image002.jpg]
                             [**2127-10-12**]  03:22 AM
                             [**2127-10-12**]  10:45 PM
                             [**2127-10-12**]  10:54 PM
                             [**2127-10-13**]  04:27 AM
                             [**2127-10-13**]  04:39 AM
                             [**2127-10-13**]  06:05 AM
                             [**2127-10-13**]  03:33 PM
                             [**2127-10-13**]  06:17 PM
                             [**2127-10-13**]  09:37 PM
                             [**2127-10-14**]  04:24 AM
   WBC
   8.3
   7.5
   8.0
   Hct
   34.4
   34.9
   42.0
   Plt
   148
   157
   174
   Cr
   0.8
   0.8
   0.8
   TCO2
   28
   28
   26
   26
   26
   28
   26
   Glucose
   111
   107
   102
   Other labs: PT / PTT / INR:13.7/26.4/1.2, CK / CKMB /
   Troponin-T:122/4/<0.01, ALT / AST:14/24, Alk Phos / T Bili:76/0.5,
   Lactic Acid:0.8 mmol/L, Albumin:3.4 g/dL, LDH:404 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.2 mg/dL
   Imaging: Heterogeneous opacification in the left lung has improved,
   consistent with
   improving pneumonia. There is a suggestion of mild edema in the left
   lung,
   although heart is normal size, it is slightly bigger than it was on
   [**10-10**]. No focal abnormality in the right lung. Pleural effusion on the
   left is
   small and unchanged. No pneumothorax. ET tube in standard placement
   given
   elevation of the chin, and nasogastric tube passes below the diaphragm
   and out
   of view. No pneumothorax.
   Microbiology: [**2127-10-12**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2127-10-12**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2127-10-12**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2127-10-12**]  BRONCHOALVEOLAR LAVAGE GRAM STAIN-FINAL; RESPIRATORY
   CULTURE-PRELIMINARY INPATIENT
      GRAM STAIN (Final [**2127-10-12**]):
         1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Preliminary):    NO GROWTH, <1000 CFU/ml.
   [**2127-10-11**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2127-10-11**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2127-10-11**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2127-10-10**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL
   INPATIENT
   [**2127-10-10**]  CSF;SPINAL FLUID GRAM STAIN-FINAL; FLUID CULTURE-FINAL
   INPATIENT
   [**2127-10-10**]  MRSA SCREEN MRSA SCREEN-FINAL INPATIENT
   [**2127-10-10**]  BLOOD CULTURE Blood Culture, Routine-PENDING EMERGENCY [**Hospital1 **]
   [**2127-10-10**]  URINE URINE CULTURE-FINAL EMERGENCY [**Hospital1 **]
   [**2127-10-10**]  BLOOD CULTURE Blood Culture, Routine-PENDING EMERGENCY [**Hospital1 **]
   Assessment and Plan
 ALTERATION IN NUTRITION
 PNEUMONIA, ASPIRATION
 HYPOXEMIA
 DELIRIUM / CONFUSION
 HYPOVOLEMIA (VOLUME DEPLETION - WITHOUT SHOCK)
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 SUICIDALITY / SUICIDE ATTEMPT
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   19 yom w/ bipolar disorder, admitted with unresponsiveness thought [**2-24**]
   clozaril (and ? other) overdose, fever, and seizure, intubated in the
   field..
   # Psych- Suicidal Ideation/agitation: prior agitation s/p extubation,
   currently on precedex only (was weaned off propofol and midazolam) and
   is s/p extubation but doing well
   - will give haldol Haldol 5-10mg IV q2 hours PRN agitation. Will
   closely follow how much pt receives. Closely monitor Qtc, daily EKGs,
   monitor for EPS/NMS.
   -Stay away from benzodiazepines, anticholinergic, antihistaminic
   medications.
   -Hold all other psychotropic medications for now.
   -1:1 sitter given recent suicide attempt and extensive history of
   impulsive behaviors, as well as regret over being unsuccessful in his
   attempt
   # Aspiration pneumonia/respiratory failure.  Patient off vent. Bronch
   showed LLL pna. High suspicion for aspiration pneumonia with spiking
   fevers without Si/Sx of NMS or SSS.  CXR suggestive of airspace disease
   that is resolving. BAL with positive gram stain, preliminarily negative
   cultures, but done after had received ceftriaxone, clindamycin, vanco.
   - continue Unasyn for broad coverage of CAP and Aspriation; Can d/c
   vancomycin today, as no postiive culture data from BAL
   - f/u cultures and CXR
   #  Seizure.  In setting of overdose, fever, and leukocytosis.  Needed
   rule out for meningitis.  Likely overdose related. No prior seizure
   history.  Still not completely oriented x 3.
   - continue Acyclovir pending HSV PCR from LP
   #  ECG changes.  Stabilized, per Tox OK to discontinue bicarb gtt
   .
   .
   # FEN: No IVF, regular, replete as needed
    # Prophylaxis: Subcutaneous heparin, H2B
    # Access: peripherals
    # Code: presumed full
    # Communication: mother [**Name (NI) 8342**] [**Name (NI) 5719**] [**Telephone/Fax (1) 8343**]
   # Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2127-10-11**] 02:28 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU